US07696229B2
Sulfurochloridic acid (100 g, 862.07 mmol) was cooled to 0° C. and N,N-dimethylbenzenamine (20 g, 165.29 mmol) was added dropwise with stirring, maintaining a temperature of 0° C. The resulting solution was then heated to 120° C. and stirred for 3 hours. After cooling to room temperature, dichloromethane (40 mL) was added and the resulting mixture was added dropwise to 100 mL of ice/salt water. The resulting solution was extracted with dichloromethane (3×500 mL) and the organic layers combined, dried (Na2SO4) and filtered. The filtrate was concentrated and the residue was purified by column chromatography using a 1:100 ethyl acetate/petroleum ether solvent system. The collected fractions were combined and concentrated to give 4.1 g (11%) of 3-(dimethylamino) benzene-1-sulfonyl chloride as a yellow solid. 1H NMR (CDCl3) δ 7.41 (t, 1H), 7.31 (d, 1H), 7.23 (s, 1H), 6.98 (m, 1H), 3.05 (s, 6H).

reactant | Sulfurochloridic acid | 862.07 mmol, 100 g | S(O)(=O)(=O)Cl | ClHO3S
reactant | N,N-dimethylbenzenamine | 165.29 mmol, 20 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-(dimethylamino) benzene-1-sulfonyl chloride | 4.1 g, 11% | CN(C=1C=C(C=CC1)S(=O)(=O)Cl)C | C8H10ClNO2S
